US07459567B2
This compound was prepared in a fashion similar to Example 1 with the following modifications: 4(t-Butyldimethylsilyloxy)phenylboronic acid (2.53 g, 10.0 mmol) was used in Step 5 to synthesize methyl [4-bromo-2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)thien-3-yl]acetate (2.71 g). This material was reacted as in Example 1 Step 6 with 2-chlorophenylboronic acid (1.93 g, 12.31 mmol) to synthesize methyl [2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-4-(2-chlorophenyl)thien-3-yl]acetate (2.12 g). Methyl [2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-4-(2-chlorophenyl)thien-3-yl]acetate (2.00 g, 4.22 mmol) was dissolved in THF and a solution of tetrabutylammonium fluoride in THF (4.65 mL, 1 M, 4.65 mmol) was added dropwise. The solution was heated to 60° C. and stirred for 3 h. The solvent was removed and the mixture was partitioned between EtOAc and 1N HCl. The EtOAc was washed with H2O, dried (MgSO4), and the solvent removed to yield methyl [4-(2-chlorophenyl)-2-(4-hydroxyphenyl)thien-3-yl]acetate (1.34 g) which was used without further purification.

reactant | 4(t-Butyldimethylsilyloxy)phenylboronic acid | 10.0 mmol, 2.53 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)B(O)O | C12H21BO3Si
reactant | methyl [4-bromo-2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)thien-3-yl]acetate | 2.71 g | BrC=1C(=C(SC1)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)CC(=O)OC | C19H25BrO3SSi
reactant | 2-chlorophenylboronic acid | 12.31 mmol, 1.93 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | methyl [2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-4-(2-chlorophenyl)thien-3-yl]acetate | 2.12 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C=1SC=C(C1CC(=O)OC)C1=C(C=CC=C1)Cl | C25H29ClO3SSi
reactant | Methyl [2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-4-(2-chlorophenyl)thien-3-yl]acetate | 4.22 mmol, 2.00 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C=1SC=C(C1CC(=O)OC)C1=C(C=CC=C1)Cl | C25H29ClO3SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 4.65 mmol, 1 M, 4.65 mL | C1CCOC1 | C4H8O
product | methyl [4-(2-chlorophenyl)-2-(4-hydroxyphenyl)thien-3-yl]acetate | 1.34 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)O)CC(=O)OC | C19H15ClO3S
